US04654336
1-Acetyl-4-(2,5-difluorobenzoyl)-4-bromopiperidine
To a stirred solution of 11.2 g of 1-acetyl-4-(2,5-difluorobenzoyl)piperidine in 225 ml of glacial acetic acid was added dropwise over 0.5 hr a solution of 13.5 ml (42.1 g) of bromine in 115 ml of glacial acetic acid at a rate such that the temperature remained between 10°-12° C. The mixture was stirred for an additional 10-15 mins, poured into water, extracted twice with ethyl acetate, and the solvent evaporated to provide an oil. The oil was dissolved in ethyl acetate, washed with saturated sodium bicarbonate solution, dried over anhydrous magnesium sulfate, filtered, and the solvent evaporated to provide product as an oil.

reactant | 1-acetyl-4-(2,5-difluorobenzoyl)piperidine | 11.2 g | C(C)(=O)N1CCC(CC1)C(C1=C(C=CC(=C1)F)F)=O | C14H15F2NO2
reactant | bromine | 13.5 ml, 42.1 g | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 225 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 115 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Acetyl-4-(2,5-difluorobenzoyl)-4-bromopiperidine | C(C)(=O)N1CCC(CC1)(Br)C(C1=C(C=CC(=C1)F)F)=O | C14H14BrF2NO2
